### PR TITLE
[Merged by Bors] - feat(RingTheory/Finiteness): add `Submodule.fg_iff_exists_fin_linearMap`

### PR DESCRIPTION
**Pull request by staroperator**
which generalizes `Module.Finite.exists_fin'`. Also clean up some unused universes/variables and simplify the proof of `Module.Finite.exists_fin'` using this new theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Finiteness/Cardinality.lean [hunk 1]
```diff
@@ -21,22 +21,31 @@ open Finsupp
...
+theorem Submodule.fg_iff_exists_fin_linearMap {N : Submodule R M} :
+    N.FG ↔ ∃ (n : ℕ) (f : (Fin n → R) →ₗ[R] M), LinearMap.range f = N := by
+  rw [fg_iff_exists_fin_generating_family]
+  congr! with n
+  constructor
+  · rintro ⟨s, rfl⟩
+    exact ⟨Basis.constr (Pi.basisFun R _) ℕ s, Basis.constr_range _ _⟩
+  · rintro ⟨f, rfl⟩
+    refine ⟨f ∘ Pi.basisFun R (Fin n), ?_⟩
+    rw [Set.range_comp, ← map_span, (Pi.basisFun R _).span_eq, LinearMap.range_eq_map]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Finiteness/Cardinality.lean]:
```suggestion
  simp_rw [fg_iff_exists_fin_generating_family, ← ((Pi.basisFun R _).constr ℕ).exists_congr_right]
  simp [Basis.constr_range]
```

File: Mathlib/RingTheory/Finiteness/Cardinality.lean [hunk 2]
```diff
@@ -21,22 +21,31 @@ open Finsupp
...
 namespace Module
 
-variable [Semiring R] [AddCommMonoid M] [Module R M] [AddCommMonoid N] [Module R N]
-
 namespace Finite
 
 open Submodule Set
 
 /-- A finite module admits a surjective linear map from a finite free module. -/
 lemma exists_fin' [Module.Finite R M] : ∃ (n : ℕ) (f : (Fin n → R) →ₗ[R] M), Surjective f := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Finiteness/Cardinality.lean]:
```suggestion
lemma exists_fin' [Module.Finite R M] : ∃ (n : ℕ) (f : (Fin n → R) →ₗ[R] M), Surjective f :=
```

File: Mathlib/RingTheory/Finiteness/Cardinality.lean [hunk 3]
```diff
@@ -21,22 +21,31 @@ open Finsupp
...
-  have ⟨n, s, hs⟩ := exists_fin (R := R) (M := M)
-  refine ⟨n, Basis.constr (Pi.basisFun R _) ℕ s, ?_⟩
-  rw [← LinearMap.range_eq_top, Basis.constr_range, hs]
+  have ⟨n, f, hf⟩ := (Submodule.fg_iff_exists_fin_linearMap R M).mp fg_top
+  refine ⟨n, f, ?_⟩
+  rw [← LinearMap.range_eq_top, hf]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Finiteness/Cardinality.lean]:
```suggestion
  have ⟨n, f, hf⟩ := (Submodule.fg_iff_exists_fin_linearMap R M).mp fg_top
  ⟨n, f, by rw [← LinearMap.range_eq_top, hf]⟩
```

**Review by alreadydone — APPROVED** [review]

File: Mathlib/RingTheory/Finiteness/Cardinality.lean (hunk 1 above)
Comment (staroperator) [reply Mathlib/RingTheory/Finiteness/Cardinality.lean]: Thanks!

**Comment by alreadydone** [comment]
Thanks 🎉 
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
